US08247429B2
methyl 3-amino-6-bromo-5-chloro-2-methylbenzoate
To a solution of methyl 3-amino-6-bromo-2-methylbenzoate (960 mg, 3.93 mmol) in acetonitrile (40 mL) was added N-chlorosuccinimide (525 mg, 3.93 mmol) under ice-cooling, and the mixture was stirred at 60° C. for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=0/100→30/70) to give the title compound (1.05 g, yield 96%).

reactant | methyl 3-amino-6-bromo-2-methylbenzoate | 3.93 mmol, 960 mg | NC=1C(=C(C(=O)OC)C(=CC1)Br)C | C9H10BrNO2
reactant | N-chlorosuccinimide | 3.93 mmol, 525 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-amino-6-bromo-5-chloro-2-methylbenzoate | 1.05 g, yield 96% | NC=1C(=C(C(=O)OC)C(=C(C1)Cl)Br)C | C9H9BrClNO2
